US07259173B2
A solution of (E)-3-(5-bromo-2-methoxy-phenyl)-acrylic acid (0.072 g, 0.28 mmol) in DMF (10 ml) is treated with 2-(1H benzotriazol-1-yl)-1,1,3,3,-tetramethyluronium tetrafluoroborate (0.09 g, 0.28 mmol) and diisopropylethylamine (0.058 ml, 0.33 mmol). The resultant solution is added to 2-[4-(4-fluoro-benzyl)-piperidin-1-yl]-ethylamine and the mixture stirred at RT for 18 hours. The solvents are evaporated and the crude residue purified by preparative HPLC to afford (E)-3-(5-bromo-2-methoxy-phenyl)-N-{2-[4-(4-fluoro-benzyl)-piperidin-1-yl]-ethyl}-acrylamide [MH]+ 475.2

reactant | (E)-3-(5-bromo-2-methoxy-phenyl)-acrylic acid | 0.28 mmol, 0.072 g | BrC=1C=CC(=C(C1)/C=C/C(=O)O)OC | C10H9BrO3
reactant | 2-(1H benzotriazol-1-yl)-1,1,3,3,-tetramethyluronium tetrafluoroborate | 0.28 mmol, 0.09 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | diisopropylethylamine | 0.33 mmol, 0.058 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-[4-(4-fluoro-benzyl)-piperidin-1-yl]-ethylamine | FC1=CC=C(CC2CCN(CC2)CCN)C=C1 | C14H21FN2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | (E)-3-(5-bromo-2-methoxy-phenyl)-N-{2-[4-(4-fluoro-benzyl)-piperidin-1-yl]-ethyl}-acrylamide | BrC=1C=CC(=C(C1)/C=C/C(=O)NCCN1CCC(CC1)CC1=CC=C(C=C1)F)OC | C24H28BrFN2O2
